US08492550B2
Step 1: Benzyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate
A mixture of 1-(benzyloxycarbonyl)piperidine-4-carboxylic acid (10 g, 38.0 mmol), N,O-dimethylhydroxylamine hydrochloride (5.56 g, 57.0 mmol), and CH2Cl2 (120 mL) was treated with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (10.92 g, 57.0 mmol) and 4-(dimethylamino)pyridine (0.464 g, 3.80 mmol). The mixture was cooled in an ice bath and treated with N,N-diisopropylethylamine (13.23 mL, 76 mmol) over 3 min. After 10 min, the cooling bath was removed and the mixture was stirred at RT overnight (˜14 h). The mixture was diluted with CH2Cl2 (150 mL), washed with saturated NaHCO3 (3×50 mL), 2 M HCl (2×50 mL) and brine, dried over MgSO4, and concentrated to provide a residue. The residue was purified by flash chromatography using a 120 g silica gel cartridge and 10:1 Hex/EtOAc to elute the product. The fractions containing the product were pooled and concentrated on a rotary evaporator to give the title compound (7.8 g, 25.5 mmol, 67% yield) as a pale yellow oil. LC-MS: 307.1, (M+H)+. 1H-NMR (400 MHz, CDCl3) δ ppm 7.25-7.37 (5H, m), 5.11 (2H, s), 4.21 (2H, s), 3.66-3.71 (3H, m), 3.16 (3H, s), 2.83 (3H, d, J=5.93 Hz), 1.64-1.75 (4H, m).

reactant | 1-(benzyloxycarbonyl)piperidine-4-carboxylic acid | 38.0 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 57.0 mmol, 5.56 g | Cl.CNOC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 57.0 mmol, 10.92 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 76 mmol, 13.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-(dimethylamino)pyridine | 3.80 mmol, 0.464 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 25.5 mmol, 7.8 g, 67% yield | CON(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C16H22N2O4
